US09382265B2
Preparation of 2,2-dichloro-N-(((3S,3aS)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl) acetamide (compound 8)
Using compound (3S,3 aS)-3-aminomethyl-7-(3-oxomorpholin-4-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one (the product of step (e) in Example 1) (40 mg, 0.178 mmol) and 2,2-dichloro acetyl chloride (27.6 mg, 0.188 mmol) as starting materials, preparation following the method as described in Example 1(f) afforded white solid 20 mg, yield: 37%.

reactant | (3S,3 aS)-3-aminomethyl-7-(3-oxomorpholin-4-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one | NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(COCC3)=O)=O | C15H17N3O5
reactant | 2,2-dichloro acetyl chloride | 0.188 mmol, 27.6 mg | ClC(C(=O)Cl)Cl | C2HCl3O
product | 2,2-dichloro-N-(((3S,3aS)-1-oxo-7-(3-oxomorpholin-4-yl)-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-3-yl)methyl) acetamide | 20 mg, yield: 37% | ClC(C(=O)NC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(COCC3)=O)=O)Cl | C17H17Cl2N3O6
